US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 3-(3-chloropropyl)-5-trifluoromethyl-2,4(1H,3H)-pyrimidinedione gave 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-trifluoromethyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 225°-226° C.; Anal.: Calcd. for C20H22F6N4O3.(HCl)2 : C, 43.061; H, 4.43; N, 10.04%; Found: C, 43.12; H, 4.59; N, 9.81%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 3-(3-chloropropyl)-5-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(NC=C(C1=O)C(F)(F)F)=O | C8H8ClF3N2O2
product | 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-trifluoromethyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(NC=C(C1=O)C(F)(F)F)=O)(F)F | InChI=1S/C20H22F6N4O3.ClH/c21-19(22,23)13-33-16-5-2-1-4-15(16)29-10-8-28(9-11-29)6-3-7-30-17(31)14(20(24,25)26)12-27-18(30)32;/h1-2,4-5,12H,3,6-11,13H2,(H,27,32);1H
